US04985448
(c) 7-Amino-1,2,3,4-tetrahydro-4,4-dimethylquinolin-2-one
A suspension of 23.2 g. (0.1 mole) 7-acetamido-1,2,3,4-tetrahydro-4,4-dimethylquinolin-2-one, 200 ml. ethanol and 20 ml. concentrated hydrochloric acid is boiled under reflux until dissolving is complete. The pH value is then adjusted with ammonia to 8, the reaction mixture is extracted three times with dichloromethane and the organic phase is dried over anhydrous sodium sulphate and freed from solvent. Yield 13.1 g. (69% of theory); m.p. 161°-163° C.

reactant | 7-acetamido-1,2,3,4-tetrahydro-4,4-dimethylquinolin-2-one | 0.1 mole | C(C)(=O)NC1=CC=C2C(CC(NC2=C1)=O)(C)C | C13H16N2O2
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 7-Amino-1,2,3,4-tetrahydro-4,4-dimethylquinolin-2-one | NC1=CC=C2C(CC(NC2=C1)=O)(C)C | C11H14N2O
